US07276511B2
Synthesis of tert-butyl[2-(S)-(3,4-dichlorophenyl)-1-methylamino(4-penten-2-yl)]methylcarbamate
tert-Butyl[2-(S)-(3,4-dichlorophenyl)-1-methylimino(4-penten-2-yl)]methylcarbamate (314.5 g) was dissolved in methanol (2 L). Under cooling with ice, sodium boron hydride (38.5 g) was added thereto, and the mixture was stirred for 3 hours. Acetone (177 g) was added to the reaction mixture and then stirred for 30 minutes. The reaction mixture was poured into water, and the resultant mixture was extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated brine and dried over sodium sulfate anhydrate. The solvent was concentrated under reduced pressure, and the residue was dissolved in methanol (2 L). Under cooling with ice, sodium boron hydride (16.0 g) was added thereto, and the mixture was stirred for 30 minutes. Acetone (49.2 g) was added to the reaction mixture, and the resultant mixture was stirred for 30 minutes. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated brine and dried over sodium sulfate anhydrate. The solvent was concentrated under reduced pressure, to thereby give the title compound (318.8 g). The compound was used in the next step without further purification.

reactant | tert-Butyl[2-(S)-(3,4-dichlorophenyl)-1-methylimino(4-penten-2-yl)]methylcarbamate | 314.5 g | C(C)(C)(C)OC(N(C)[C@@](C=NC)(CC=C)C1=CC(=C(C=C1)Cl)Cl)=O | C18H24Cl2N2O2
reactant | sodium boron hydride | 38.5 g | B.[Na]
reactant | Acetone | 177 g | CC(=O)C | C3H6O
reactant | water | O | H2O
solvent | methanol | 2 L | CO | CH4O
product | tert-butyl[2-(S)-(3,4-dichlorophenyl)-1-methylamino(4-penten-2-yl)]methylcarbamate | 318.8 g | C(C)(C)(C)OC(N(C)[C@@](CNC)(CC=C)C1=CC(=C(C=C1)Cl)Cl)=O | C18H26Cl2N2O2
